US04031099
b. 1-Ethyl-4-hydroxy-3-nitro-5,6,7,8-tetrahydrocarbostyril
A suspension of 1-ethyl-4-hydroxy-5,6,7,8-tetrahydrocarbostyril (1.74 g; 0.009 mole) in glacial acetic acid (10 ml) was solubilised with concentrated nitric acid (2.5 ml; d 1.42) and the mixture heated for a few minutes at 100° C. After cooling and dilution with water a yellow crystalline solid separated. On recrystallisation from ethanol it had m.p. 152°- 154° C (d).

reactant | 1-ethyl-4-hydroxy-5,6,7,8-tetrahydrocarbostyril | 0.009 mole, 1.74 g | C(C)N1C(=O)C=C(C=2CCCCC12)O | C11H15NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-4-hydroxy-3-nitro-5,6,7,8-tetrahydrocarbostyril | C(C)N1C(=O)C(=C(C=2CCCCC12)O)[N+](=O)[O-] | C11H14N2O4
